US07547788B2
4-(4-Chloro-3-trifluoromethyl-phenoxy)-1,2,2,6,6-pentamethyl-piperidine hydrochloric acid salt
Was prepared according to method A from 1,2,2,6,6-pentamethyl-piperidin-4-ol and 4-chloro-3-trifluoromethylphenol. Mp 240-245° C.

reactant | 1,2,2,6,6-pentamethyl-piperidin-4-ol | CN1C(CC(CC1(C)C)O)(C)C | C10H21NO
reactant | 4-chloro-3-trifluoromethylphenol | ClC1=C(C=C(C=C1)O)C(F)(F)F | C7H4ClF3O
product | 4-(4-Chloro-3-trifluoromethyl-phenoxy)-1,2,2,6,6-pentamethyl-piperidine hydrochloric acid salt | Cl.ClC1=C(C=C(OC2CC(N(C(C2)(C)C)C)(C)C)C=C1)C(F)(F)F | InChI=1S/C17H23ClF3NO.ClH/c1-15(2)9-12(10-16(3,4)22(15)5)23-11-6-7-14(18)13(8-11)17(19,20)21;/h6-8,12H,9-10H2,1-5H3;1H
